US08071609B2
C) N-(4-(Dimethylphosphoryl)phenyl)-2-isopropyl-9-vinyl-9H-purin-6-amine
In a dry Argon atmosphere Reike Zinc/THF suspension (5 g/100 mL) (2.54 mL, 2.0 mmol) was transferred into a round-bottom flask via syringe with a 12 gauge needle. Then isopropyl iodide (0.18 mL, 1.82 mmol) was added and stirring was started right away. The content turned warm and stirring was continued at rt for 4-5 hours. In a 10 mL CEM microwave tube was dissolved N-(4-(dimethylphosphoryl)phenyl)-2-iodo-9-vinyl-9H-purin-6-amine (0.20 g, 0.46 mmol), PdCl2(PPh3)2 (19 mg, 0.027 mmol) in 1 mL dry DMF. Isopropylzinc iodide/THF solution was transferred to the microwave tube via syringe. The reaction was heated on microwave (60° C./5 min). The reaction mixture was filtered through celite, washed with EtOAc, the filtrate was concentrated, purified on ISCO combiFlash Column (SiO2, 12 g).

reactant | isopropyl iodide | 1.82 mmol, 0.18 mL | C(C)(C)I | C3H7I
reactant | N-(4-(dimethylphosphoryl)phenyl)-2-iodo-9-vinyl-9H-purin-6-amine | 0.46 mmol, 0.20 g | CP(=O)(C)C1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)I)C=C | C15H15IN5OP
reactant | Isopropylzinc iodide THF | [I-].C(C)(C)[Zn+].C1CCOC1
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Zinc THF | 2.0 mmol, 100 mL, 5 g | [Zn].C1CCOC1
catalyst | PdCl2(PPh3)2 | 0.027 mmol, 19 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-(Dimethylphosphoryl)phenyl)-2-isopropyl-9-vinyl-9H-purin-6-amine | CP(=O)(C)C1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)C(C)C)C=C | C18H22N5OP
